US04352805
To a solution of 3,4-dimethoxyphenethyl alcohol (110 g, 1.233 mole) and chloropropionaldehyde diethyl acetal (40 ml) in 240 ml of nitromethane, 8 ml of BF3 etherate is added. The mixture is stirred for 2 hours at room temperature under N2. This, after work up from water and extracting with methylene chloride gives a yellow oil. This, after column chromatography (silica gel), gives 45 g (oil) of 6,7-dimethoxy-1-(2-chloroethyl)isochroman which is crystallized from ether/pet. ether to give 41 g (70%) of 6,7-dimethoxy-1-(2-chloroethyl)isochroman as a white crystalline material, m.p. 56°-57.5°.

reactant | 3,4-dimethoxyphenethyl alcohol | 1.233 mole, 110 g | COC=1C=C(CCO)C=CC1OC | C10H14O3
reactant | chloropropionaldehyde diethyl acetal | 40 ml | C(C)OC(C(C)Cl)OCC | C7H15ClO2
reactant | nitromethane | 240 ml | [N+](=O)([O-])C | CH3NO2
solvent | BF3 | 8 ml | B(F)(F)F | BF3
product | 6,7-dimethoxy-1-(2-chloroethyl)isochroman | 45 g | COC=1C=C2CCOC(C2=CC1OC)CCCl | C13H17ClO3
